### PR TITLE
[Merged by Bors] - feat(Matrix): more lemmas for `PEquiv.toMatrix`

### PR DESCRIPTION
**Pull request by chrisflav**
Also

- add `Matrix.transpose_stdBasisMatrix` and `conjTranspose` version
- add `Matrix.ext_ofMulVec`
- tag `Matrix.GeneralLinearGroup.map` with `@[simps]`

From "Formalizing the Bruhat-Tits tree"
Co-authored by: Judith Ludwig <ludwig@mathi.uni-heidelberg.de>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matrix/Mul.lean [hunk 1]
```diff
@@ -789,7 +789,21 @@ theorem one_vecMul [Fintype m] (A : Matrix m n α) : 1 ᵥ* A = ∑ i, A i := by
...
+    M = N := by
+  ext i j
+  simp_rw [mulVec_single_one] at h
+  exact congrFun (h j) i
+
+lemma ext_of_vecMul {M N : Matrix m n α} (h : ∀ i, Pi.single i 1 ᵥ* M = Pi.single i 1 ᵥ* N) :
+    M = N := by
+  ext i j
+  simp_rw [single_one_vecMul] at h
+  exact congrFun (h i) j
```
Comment (YaelDillies) [inline Mathlib/Data/Matrix/Mul.lean:804]: @eric-wieser, opinions?

File: Mathlib/Data/Matrix/PEquiv.lean [hunk 2]
```diff
@@ -178,4 +178,34 @@ theorem toMatrix_toPEquiv_eq [DecidableEq n] [Zero α] [One α] (σ : Equiv.Perm
...
+lemma single_vecMul_toMatrix_toPEquiv [Fintype m] [NonAssocSemiring α] (σ : m ≃ n) (i : m) (x : α) :
+    Pi.single i x ᵥ* σ.toPEquiv.toMatrix = Pi.single (σ i) x := by
+  ext j
+  simp [Pi.single_apply]
+
+@[simp]
+lemma toMatrix_toPEquiv_mul_toMatrix_toPEquiv_symm [Fintype m] [Semiring α] (σ : m ≃ m) :
+    σ.toPEquiv.toMatrix (α := α) * σ.symm.toPEquiv.toMatrix = 1 := by
+  rw [← PEquiv.toMatrix_trans, ← Equiv.toPEquiv_trans, Equiv.self_trans_symm, Equiv.toPEquiv_refl,
+    PEquiv.toMatrix_refl]
```
Comment (YaelDillies) [inline Mathlib/Data/Matrix/PEquiv.lean:209]: Hmm... I'm not a great fan of this lemma. Do you need it often?

Comment (chrisflav) [reply Mathlib/Data/Matrix/PEquiv.lean:209]: 1. Why are you not a "great fan"? It seems like a harmless `simp` lemma to me.
2. Only for showing that `swap * swap = 1` in the other PR.

File: Mathlib/Data/Matrix/Mul.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Data/Matrix/Mul.lean:804]: On `congr_fun` vs `congrFun`? I don't really care, because anyone who does care can write a linter to get rid of one of them later.

File: Mathlib/Data/Matrix/PEquiv.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Data/Matrix/PEquiv.lean:209]: My reasoning is that it is a straightforward combination of "Push multiplication inwards" + `σ * σ.symm = 1`. Plus you need to push inwards through two functions, and there are many two functions compositions which you could try to pushing through inwards. This makes me lean towards "We don't want this, and instead users should `simp [← PEquiv.toMatrix_trans, ← Equiv.toPEquiv_trans]` where needed".

Comment (eric-wieser) [reply Mathlib/Data/Matrix/PEquiv.lean:209]: If we have this lemma we should also have the one with the `symm` on the LHS of the multiplication.

Also, this should be stated for `m ≃ n` not `m ≃ m`

File: Mathlib/Data/Matrix/Mul.lean [hunk 3]
```diff
@@ -789,7 +789,21 @@ theorem one_vecMul [Fintype m] (A : Matrix m n α) : 1 ᵥ* A = ∑ i, A i := by
...
 @[deprecated (since := "2025-01-26")] alias vec_one_mul := one_vecMul
 
-variable [Fintype m] [Fintype n] [DecidableEq m]
+variable [Fintype m] [DecidableEq m]
+
+lemma ext_of_mulVec {M N : Matrix n m α} (h : ∀ i, M *ᵥ Pi.single i 1 = N *ᵥ Pi.single i 1) :
+    M = N := by
+  ext i j
+  simp_rw [mulVec_single_one] at h
+  exact congrFun (h j) i
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Mul.lean:798]:
```suggestion
lemma ext_of_mulVec [Fintype n] [DecidableEq n] {M N : Matrix m n α} (h : ∀ i, M *ᵥ Pi.single i 1 = N *ᵥ Pi.single i 1) :
    M = N := by
  ext i j
  simp_rw [mulVec_single_one] at h
  exact congrFun (h j) i
```
so as not to be consistent about using `Matrix m n` and not `Matrix n m` throughout the file.

File: Mathlib/Data/Matrix/Mul.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Data/Matrix/Mul.lean:804]: Here are the points I had in mind:
1. Are they good extensionality lemmas?
2. Should it be `ext_of_relevantDef` or `ext_relevantDef`?
3. Do those two exist in some form already?

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Mul.lean:804]: 1. Yes, but not good `@[ext]` lemmas
2. `of` seems better, `T.ext_fooHom` is usually for equality of `FooHom T _`. Perhaps it should be `ext_of_single_vecMul` or something.
3. Yes, but only via bundling that needs stronger typeclass assumptions:
```lean
import Mathlib
variable {m n R} [CommSemiring R] [Fintype m] [DecidableEq m] [Fintype n] [DecidableEq n]
open scoped Matrix

lemma ext_of_vecMul {M N : Matrix m n R} (h : ∀ i, M *ᵥ Pi.single i 1 = N *ᵥ Pi.single i 1) :
    M = N := by
  apply Matrix.toLin'.injective
  ext : 2
  dsimp
  exact h _
```

File: Mathlib/Data/Matrix/PEquiv.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/Data/Matrix/PEquiv.lean]: Deleted

File: Mathlib/Data/Matrix/Mul.lean (hunk 1 above)
Comment (chrisflav) [reply Mathlib/Data/Matrix/Mul.lean]: Renamed.

File: Mathlib/Data/Matrix/PEquiv.lean [hunk 4]
```diff
@@ -178,4 +178,28 @@ theorem toMatrix_toPEquiv_eq [DecidableEq n] [Zero α] [One α] (σ : Equiv.Perm
 
 @[deprecated (since := "2025-01-27")] alias equiv_toPEquiv_toMatrix := toMatrix_toPEquiv_eq
 
+@[simp]
+lemma map_toMatrix {β : Type*} [DecidableEq n] [NonAssocSemiring α] [NonAssocSemiring β]
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/PEquiv.lean:182]: Can you put `β` into the binder at the top of the file?

File: Mathlib/Data/Matrix/PEquiv.lean [hunk 5]
```diff
@@ -178,4 +178,28 @@ theorem toMatrix_toPEquiv_eq [DecidableEq n] [Zero α] [One α] (σ : Equiv.Perm
...
+
+lemma toMatrix_toPEquiv_mulVec_single [Fintype n] [NonAssocSemiring α] (σ : m ≃ n) (i : n) (x : α) :
+    σ.toPEquiv.toMatrix *ᵥ Pi.single i x = Pi.single (σ.symm i) x := by
+  ext j
+  simp [Pi.single_apply, Equiv.apply_eq_iff_eq_symm_apply σ]
+
+lemma single_vecMul_toMatrix_toPEquiv [Fintype m] [NonAssocSemiring α] (σ : m ≃ n) (i : m) (x : α) :
+    Pi.single i x ᵥ* σ.toPEquiv.toMatrix = Pi.single (σ i) x := by
+  ext j
+  simp [Pi.single_apply]
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/PEquiv.lean:203]: Based on the lemmas above, I think these should remain in the `PEquiv` namespace, as they are about `PEquiv.toMatrix`

File: Mathlib/Data/Matrix/PEquiv.lean [hunk 6]
```diff
@@ -117,6 +117,18 @@ theorem mul_toMatrix_toPEquiv {m n α : Type*} [Fintype n] [DecidableEq n] [Semi
...
+    [NonAssocSemiring α] (σ : m ≃ n) (i : n) (x : α) :
+    σ.toPEquiv.toMatrix *ᵥ Pi.single i x = Pi.single (σ.symm i) x := by
+  ext j
+  simp [Pi.single_apply, Equiv.apply_eq_iff_eq_symm_apply σ]
+
+lemma single_vecMul_toMatrix_toPEquiv [DecidableEq n] [DecidableEq m] [Fintype m]
+    [NonAssocSemiring α] (σ : m ≃ n) (i : m) (x : α) :
+    Pi.single i x ᵥ* σ.toPEquiv.toMatrix = Pi.single (σ i) x := by
+  ext j
+  simp [Pi.single_apply]
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/PEquiv.lean:130]: Is there a version of these lemmas you can state without `Pi.single`? I think the RHS would just be composition in that case - and then we can skip the `single` lemmas altogether.

File: Mathlib/Data/Matrix/PEquiv.lean [hunk 7]
```diff
@@ -117,6 +117,18 @@ theorem mul_toMatrix_toPEquiv {m n α : Type*} [Fintype n] [DecidableEq n] [Semi
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/PEquiv.lean:117]: I've just noticed; does the lemma on the line above this one generalize to `f : n ≃ p` for free?

Comment (chrisflav) [reply Mathlib/Data/Matrix/PEquiv.lean:119]: Yes.

File: Mathlib/Data/Matrix/PEquiv.lean (hunk 6 above)
Comment (chrisflav) [reply Mathlib/Data/Matrix/PEquiv.lean]: Changed

File: Mathlib/Data/Matrix/PEquiv.lean [hunk 8]
```diff
@@ -102,21 +102,36 @@ theorem transpose_toMatrix_toPEquiv_apply
   ext
   simp [toMatrix_apply, Pi.single_apply, eq_comm, ← Equiv.apply_eq_iff_eq_symm_apply]
 
-theorem toMatrix_toPEquiv_mul [Fintype m] [DecidableEq m] [Semiring α] (f : m ≃ m)
-    (M : Matrix m n α) : f.toPEquiv.toMatrix * M = M.submatrix f id := by
+theorem toMatrix_toPEquiv_mul [Fintype m] [DecidableEq m]
+    [Semiring α] (f : n ≃ m) (M : Matrix m n α) :
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/PEquiv.lean:106]:
```suggestion
    [Semiring α] (f : m ≃ n) (M : Matrix n p α) :
```
There should be three variables here, not two.

**Review by eric-wieser — APPROVED** [review]
bors d+

This is great, thanks! Please merge once CI passes.

**Comment by chrisflav** [comment]
Thanks for the reviews.

bors r+
